US05463083
3-Methoxy-4-hydoxyethoxy-5-iodobenzaldehyde (compound 104)
5-Iodovanillin (25 g, 90 mmol) in DMF (100 mL) was added to potassium carbonate (18.6 g, 135 mmol). The mixture was heated at 40° C. for 16 hours. The reaction mixture was allowed to cool to room temperature and quenched with water (500 mL) and extracted with ethyl acetate. The organic layer was washed with water and saturated NaCl solution, and dried over MgSO4, filtered and evaporated in vacuo to an oil, and then purified by column chromatography (silica, 2:1 hexane/ethyl acetate), to provide the product (16.6 g, 57%). 1H NMR (CDCl3) δ2.70 (t, 1H); 3.92 (t, 2H); 3.92 (s, 3H); 3.94 (s, 3H); 4.29 (t, 2H); 7.44 (s, 1H); 7.87 (s, 1H); 9.85 (s, 1H).

reactant | 5-Iodovanillin | 90 mmol, 25 g | IC=1C(=C(C=C(C=O)C1)OC)O | C8H7IO3
reactant | potassium carbonate | 135 mmol, 18.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-Methoxy-4-hydoxyethoxy-5-iodobenzaldehyde | 16.6 g, 57% | COC=1C=C(C=O)C=C(C1OCCO)I | C10H11IO4
